US06451810B1
According to the general method of Example 14, 1-(4-aminobutyl)-1H-imidazo[4,5-c]quinolin-4-amine and 6-(2,2,2-trifluoroethoxy)pyridine-3-carbonyl chloride were combined to provide N3-[4-(4-amino-1H-imidazo[4,5-c]quinolin-1-yl)butyl]-6-(2,2,2-trifluoroethoxy)nicotinamide as a white crystalline solid, m.p. 192.0-194.0° C. (decomposition). 1H NMR (300 MHz, DMSO-d6) δ8.62 (d, J=1.9 Hz, 1H), 8.58 (t, J=5.6 Hz, 1H), 8.25 (s, 1H), 8.15 (dd, J=8.6, 2.4 Hz, 1H), 8.06 (d, J=7.6 Hz, 1H), 7.64 (d, J=7.8 Hz, 1H), 7.45 (t, J=7.1 Hz, 1H), 7.24 (t, J=7.1 Hz, 1H), 7.04 (d, J=8.6 Hz, 1H), 6.82 (broad s, 2H), 5.06 (q, J=9.1 Hz, 2H), 4.64 (t, J=6.9 Hz, 2H), 3.30 (m, 2H), 1.91 (m, 2H), 1.60 (m, 2H); MS (EI) m/e 458.1678 (458.1678 calcd for C22H21N6O2F3).

reactant | 1-(4-aminobutyl)-1H-imidazo[4,5-c]quinolin-4-amine | NCCCCN1C=NC=2C(=NC=3C=CC=CC3C21)N | C14H17N5
reactant | 6-(2,2,2-trifluoroethoxy)pyridine-3-carbonyl chloride | FC(COC1=CC=C(C=N1)C(=O)Cl)(F)F | C8H5ClF3NO2
product | N3-[4-(4-amino-1H-imidazo[4,5-c]quinolin-1-yl)butyl]-6-(2,2,2-trifluoroethoxy)nicotinamide | NC1=NC=2C=CC=CC2C2=C1N=CN2CCCCNC(C2=CN=C(C=C2)OCC(F)(F)F)=O | C22H21F3N6O2
